US04296126
2.8 ml of 98% acetic acid anhydride were added under an inert atmosphere to a solution of 7.6 g of N,N-dimethyl-γ-(4-amino-phenoxy)-benzene-propanamine in 80 ml of benzene and the mixture was stirred for 45 minutes. 50 ml of 2 N sodium hydroxide were added thereto and the decanted organic phase was washed with aqueous sodium chloride solution and was dried, treated with activated carbon and filtered. The filtrate was evaporated to dryness to obtain 9 g of N-[4-(3-dimethylamino-1-phenyl-propyloxy)-phenyl]acetamide.

reactant | acetic acid anhydride | 2.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N,N-dimethyl-γ-(4-amino-phenoxy)-benzene-propanamine | 7.6 g | CN(CCC(C1=CC=CC=C1)OC1=CC=C(C=C1)N)C | C17H22N2O
reactant | sodium hydroxide | 2 N, 50 ml | [OH-].[Na+]
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | N-[4-(3-dimethylamino-1-phenyl-propyloxy)-phenyl]acetamide | 9 g | CN(CCC(OC1=CC=C(C=C1)NC(C)=O)C1=CC=CC=C1)C | C19H24N2O2
